US05644017
Example 4A: Preparation of Phenyl 3-Sulfobenzoate Sodium Salt
A 1L, 3-neck flask equipped with thermometer, mechanical stirrer and distillation head is filled with 133.3 g (0.67 mol) of sodium 3-sulfobenzoic acid, 288.0 g (1.34 mol) of diphenyl carbonate and 1.5 g (14 mmol) of sodium carbonate. The flask is placed under a nitrogen atmosphere and the flask heated with a heating mantle. Once the diphenyl carbonate is melted the mechanical stirrer is started. When the temperature of the melt reaches 300° C. phenol begins to distill. The reaction mixture becomes pasty off-white and then yellow and eventually black. After about 30 minutes phenol distillation stops and the heat is removed. The black melt solidifies to a yellow solid. After cooling the solid is removed from the flask and dissolved in approximately 400 mL of water. The aqueous solution is washed twice in 300 mL of methylene chloride and then the water is removed by rotary evaporation to yield the crude product. The solid is suspended in wet ethanol (1-2 percent water) and warmed on a steam bath to form a solution. The solution is hot filtered and then heated on the steam bath to evaporate solvent until crystallization begins. The solution is cooled to room temperature and then put in a refrigerator at about 5° C. The product is collected by filtration and dried in a vacuum oven at 90° C. The resulting sodium phenyl 3-sulfobenzoate is ground with a mortar and pestle yielding 163.6 g. The melting temperature (Tm)is 287° C.,

reactant | sodium 3-sulfobenzoic acid | 0.67 mol, 133.3 g | S(=O)(=O)(O)C=1C=C(C(=O)O)C=CC1.[Na]
reactant | diphenyl carbonate | 1.34 mol, 288.0 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | sodium carbonate | 14 mmol, 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | Phenyl 3-Sulfobenzoate Sodium Salt | [Na].S(=O)(=O)(O)C=1C=C(C(=O)OC2=CC=CC=C2)C=CC1 | InChI=1S/C13H10O5S.Na/c14-13(18-11-6-2-1-3-7-11)10-5-4-8-12(9-10)19(15,16)17;/h1-9H,(H,15,16,17);
